US05096919
A mixture of 1.4 g of N-acetyl-N-acetyloxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethylamine and 7.0 g of potassium carbonate in 70 ml of methanol is stirred at room temperature overnight and then evaporated to dryness. The residue is suspended in water and the product is extracted with ethyl acetate. The ethyl-acetate extract is washed with brine, dried and evaporated to dryness. The residue is purified by chromatography on silica gel to yield N-acetyl-N-hydroxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethylamine; NMR (DMSO-d6): δ7.15, 7.45, 5.85, 2.0, 2.15.

reactant | N-acetyl-N-acetyloxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethylamine | 1.4 g | C(C)(=O)N(OC(C)=O)C(C)C1=CC=C(C=C1)N1C(=CC=C1C)C | C18H22N2O3
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 70 ml | CO | CH4O
product | N-acetyl-N-hydroxy-1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenyl]-ethylamine | C(C)(=O)N(O)C(C)C1=CC=C(C=C1)N1C(=CC=C1C)C | C16H20N2O2
